** sch_path: /workspace/analog/build/schematic/tb_ac_analysis.sch
**.subckt tb_ac_analysis
VSS net1 GND 0
VDD net2 GND 1.8
VDIFF net4 net3 dc 0 ac 1
R1 net3 net5 1M m=1
R2 net4 net5 1M m=1
VCM net5 GND 0.9
x1 net2 vout net3 net4 net1 opamp_two_stage
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /root/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /root/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /root/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /root/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice



.control

* Check operating point
op
print v(vout)

* AC sweep
ac dec 100 1 1G

* Maximum/low-frequency gain
let gain_max = maximum(vdb(vout))
print gain_max

* 3 dB bandwidth
let target = gain_max - 3
print target
meas ac bandwidth WHEN vdb(vout)=target FALL=1

* Unity-gain frequency / GBW
meas ac gbw WHEN vdb(vout)=0 FALL=1

print bandwidth
print gbw

plot vdb(vout)

.endc


**** end user architecture code
**.ends

* expanding   symbol:  opamp_two_stage.sym # of pins=5
** sym_path: /workspace/analog/build/schematic/opamp_two_stage.sym
** sch_path: /workspace/analog/build/schematic/opamp_two_stage.sch
.subckt opamp_two_stage VDD VOUT VIN_N VIN_P VSS
*.ipin VIN_N
*.ipin VIN_P
*.opin VOUT
*.ipin VDD
*.ipin VSS
XM1 net3 VIN_N net1 VSS sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 VIN_P net1 VSS sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net5 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 VOUT net5 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 VOUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
C1 net3 net4 1p m=1
R1 VOUT net4 2k m=1
XM_bias net5 net5 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R2 VDD net5 10k m=1
.ends

.GLOBAL GND
.end
