** sch_path: /workspace/analog/build/schematic/tb_impedance.sch
**.subckt tb_impedance
x1 net1 net3 vout net2 net2 net4 net5 opamp_two_stage
VDD net1 GND 1.8
VCM net2 GND 0.9
VBIAS_N net4 GND 0.56
VSS net5 GND 0
IOUT vout GND dc 0 ac 1
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /root/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /root/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /root/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /root/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice



.control
ac dec 100 1 1e6
let zout_mag = mag(v(vout))
meas ac zout_ohm FIND zout_mag AT=1
let zout_kohm = zout_ohm/1e3
print zout_ohm
print zout_kohm
.endc


**** end user architecture code
**.ends

* expanding   symbol:  opamp_two_stage.sym # of pins=7
** sym_path: /workspace/analog/build/schematic/opamp_two_stage.sym
** sch_path: /workspace/analog/build/schematic/opamp_two_stage.sch
.subckt opamp_two_stage VDD VSTAGE1 VOUT VIN_P VIN_N VBIASN VSS
*.ipin VIN_P
*.ipin VIN_N
*.opin VSTAGE1
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VBIASN
XM1 net1 VIN_P net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 VSTAGE1 VIN_N net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 VSTAGE1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 VBIASN VSS GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Cc VSTAGE1 VOUT 1p m=1
XM6 VOUT VSTAGE1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 VOUT VBIASN VSS GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
